US08445501B2
4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)piperidin-3-yl]-amide
Starting from 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-3-ylamide (example A180) and methoxy-acetyl chloride the title compound was obtained as colorless solid.

reactant | 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-3-ylamide | N1CC(CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCCC | C23H27N5O4
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)piperidin-3-yl]-amide | COCC(=O)N1CC(CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCCC | C26H31N5O6
